US04843075
A mixture of 10 g of α-(2,3-dihydro-4-oxo-4H-1-benzothiopyran-3-yl)acetic acid, 12 g of 4-chlorophenyhydrazine hydrochloride and 5.5 g of sodium acetate in 200 ml of ethanol is refluxed under heating for 10 hours. The ethanol is distilled off under reduced pressure and to the residue is added 200 ml of acetic acid and the mixture is refluxed under heating for 10 hours. After the acetic acid is distilled off, the residue is extracted with chloroform. The extract is washed with water, dried over magnesium sulfate anhydride and the chloroform is distilled off under reduced pressure. To the precipitated crystals is added diisopropyl ether. The crystals are collected by filtration and recrystallized from acetic acid to give 11.5 g of 2-(4-chlorophenyl)-2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one, melting at 146°-147° C., as colorless prisms.

reactant | α-(2,3-dihydro-4-oxo-4H-1-benzothiopyran-3-yl)acetic acid | 10 g | O=C1C(CSC2=C1C=CC=C2)CC(=O)O | C11H10O3S
reactant | 4-chlorophenyhydrazine hydrochloride | 12 g | Cl.ClC1=CC=C(C=C1)NN
reactant | sodium acetate | 5.5 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(4-chlorophenyl)-2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one | 11.5 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CSC1=C2C=CC=C1 | C17H13ClN2OS
